US07157464B2
Synthesis of 4-{4-[2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-piperazin-1-yl}-benzoic acid methyl ester
Title compound was prepared following the HATU mediated coupling protocol P, wherein 4-Piperazin-1-yl-benzoic acid methyl ester and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz) 7.78 (d, 2H), 6.98 (d, 2H), 5.38 (s, 2H), 3.71 (s, 3H), 3.60 (m, 4H), 3.46 (m, 2H), 3.37 (m, 2H), 2.19 (s, 3H) ppm; MS (ES) expect M+H=445.1, found 445.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-Piperazin-1-yl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1CCNCC1)=O | C12H16N2O2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 4-{4-[2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-piperazin-1-yl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1CCN(CC1)C(CN1N=C(C(=C1C)Cl)C(F)(F)F)=O)=O | C19H20ClF3N4O3
